US05264580
23.2 g (0.2 mol) of methyl acetoacetate in 50 ml of absolute methanol are added to a solution of 10.8 g (0.2 mol) of sodium methylate (cryst.) in 150 ml of dry methanol at 0°-10° C., and the mixture is stirred at this temperature for 3 h. Subsequently, at 0°-10° C., 27.5 g (0.2 mol) of methyl α-chloro-α-hydroximinoacetate in 100 ml of absolute methanol are slowly added dropwise, and the mixture is stirred at room temperature for 12 h. The solution is worked up by evaporation to a small volume and addition of 800 ml of water, when the product separates out as oil. The organic phase is separated off, the aqueous phase is extracted with dichloromethane, the combined organic phases are dried, and the solvent is stripped off in a rotary evaporator. The residue is purified by column chromatography on silica gel (solvent cyclohexane/ethyl acetate 3:1). 15.1 g (38% of theory) of dimethyl 5-methylisoxazole- 3,4-dicarboxylate are obtained.

reactant | methyl acetoacetate | 0.2 mol, 23.2 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium methylate | 0.2 mol, 10.8 g | C[O-].[Na+]
reactant | methyl α-chloro-α-hydroximinoacetate | 0.2 mol, 27.5 g | ClC(C(=O)OC)=NO | C3H4ClNO3
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | dimethyl 5-methylisoxazole- 3,4-dicarboxylate | 15.1 g, 38% | CC1=C(C(=NO1)C(=O)OC)C(=O)OC | C8H9NO5
